US05677466
(3S,5S)-5-[(Methanesulphonyloxy)methyl]-3-[(methoxycarbonyl)-methyl]-2-pyrrolidinone
To a solution of 8.0 g of (3S,5S)-5-hydroxymethyl-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone and 4.95 ml of methanesulphonic acid chloride in 100 ml of methylene chloride, a solution of 9.0 ml of triethylamine in 15 ml of methylene chloride is added dropwise at 0° C. within 15 minutes. The mixture is stirred for one hour at 0° C. and for a further hour at ambient temperature. After the addition of 20 ml of water the organic phase is separated off and washed twice with water. The organic phase is dried over magnesium sulphate and evaporated under reduced pressure in vacuo. The crude product is chromatographed with ethyl acetate/methanol (15:1) over silica gel and the solid obtained is recrystallised from methyl tert.butylether/acetone.

reactant | (3S,5S)-5-hydroxymethyl-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone | 8.0 g | OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OC | C8H13NO4
reactant | methanesulphonic acid chloride | 4.95 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 9.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (3S,5S)-5-[(Methanesulphonyloxy)methyl]-3-[(methoxycarbonyl)-methyl]-2-pyrrolidinone | CS(=O)(=O)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OC | C9H15NO6S
